US08536183B2
(2R)-2-Methyl-4-[(6-methyl-3-pyridinyl)carbonyl]-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine formic acid salt
To a solution of 6-methyl-3-pyridinecarboxylic acid (47.7 mg, 0.348 mmol) in DCM (2.00 ml) was added HATU (132 mg, 0.348 mmol) and DIPEA (0.152 ml, 0.870 mmol) and the mixture stirred for 15 min before addition of (2R)-2-methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine hydrochloride (Description 6) (100 mg, 0.290 mmol) in DMF (2 ml). The resultant mixture was stirred for 16 h at room temperature then the reaction mixture was concentrated and the residue taken up in DMSO and purified by MDAP. The collected fractions were concentrated in vacuo and triturated with isohexane giving the title compound (77.7 mg) as a white solid.

reactant | 6-methyl-3-pyridinecarboxylic acid | 0.348 mmol, 47.7 mg | CC1=CC=C(C=N1)C(=O)O | C7H7NO2
reactant | HATU | 0.348 mmol, 132 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.870 mmol, 0.152 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R)-2-methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine hydrochloride | 0.290 mmol, 100 mg | Cl.C[C@H]1N(CCNC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F
solvent | DCM | 2.00 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (2R)-2-Methyl-4-[(6-methyl-3-pyridinyl)carbonyl]-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine formic acid salt | C(=O)O.C[C@H]1N(CCN(C1)C(=O)C=1C=NC(=CC1)C)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C19H20F3N3O3S.CH2O2/c1-13-3-4-15(11-23-13)18(26)24-9-10-25(14(2)12-24)29(27,28)17-7-5-16(6-8-17)19(20,21)22;2-1-3/h3-8,11,14H,9-10,12H2,1-2H3;1H,(H,2,3)/t14-;/m1./s1
